* ADG702 SPICE Macro-model
* Generic Desc:CMOS Low Voltage 2 Ω SPST Switches
* Developed by: mbarrien / ANALOG
* Revision History: 2.0 (8/2018) - Updated model design
* 1.0 (05/2008)
* Copyright 2018 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd from 0.5V to 5V single supply.
* The model provides parametric specifications at 5V only and is not variable with Vdd changes. Please see datasheet spec table.
*
* Parameters modeled include:
* On Resistance
* Ton and Toff
* Off Isolation
* Supply Currents: Iss/Idd
* Bandwidth
* Charge Injection
* Connections
*      1  = D1
*      2  = NIC
*      3  = NIC
*      4  = VDD
*      5  = NIC
*      6  = IN1
*      7  = GND
*      8  = S1
*
.SUBCKT ADG702 1 4 6 7 8

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=9000000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=15100 Roff=3000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)


* IDD/ISS
I1 4 7 0.001E-006

* Configuration: SPST 1:1


** SWITCH 1 **
*
* ESD PROTECTION DIODES
D11 7 1 DCLAMP
D12 1 4 DCLAMP
D13 7 8 DCLAMP
D14 8 4 DCLAMP
*
* OFF ISOLATION
C11 8 1 0.566E-012
*
* CHARGE INJECTION
C12 1 140 0.131E-011
C13 8 140 0.131E-011
*
* CD/CS OFF AND BANDWIDTH
C14 8 7 12.1E-012
C15 1 7 12.1E-012
*
* ON RESISTANCE
Ech155 1555 7 VALUE = { IF ((ABS(V(8)))>(ABS(V(184))),V(8),V(1)) }
R155 1555 7 1G
R11 137 1 0.001
S111 136 141 1141 7 VON
Ech111 1141 7 VALUE = { IF (V(1555)<1.25,5,0) }
Ech11 141 7 VALUE = { IF (V(1555)<1.25,0.104*(V(1555)-1.25)+1.85,0) }
S112 136 146 1146 7 VON
Ech112 1146 7 VALUE = { IF ((V(1555)>=1.25) & (V(1555)<=3.6),5,0) }
Ech12 146 7 VALUE = { IF ((V(1555)>=1.25) & (V(1555)<=3.6),((1.85-1.52)/((1.25-2.5713389907903)*(1.25-2.5713389907903)))*(V(1555)-2.5713389907903)*(V(1555)-2.5713389907903) + 1.52,0) }
S113 136 144 1144 7 VON
Ech113 1144 7 VALUE = { IF (V(1555)>3.6,5,0) }
Ech13 144 7 VALUE = { IF (V(1555)>3.6,-0.171428571428571*(V(1555)-3.6)+1.72,0) }
RIN1	136 7	1G
EOUT1 137 181	POLY(2) (136,7) (180,7) 0 0 0 0 0.999/1000
FCOPY1	7 180 VSENSE1 1
RSENSOR1 180 7	1K
VSENSE1 181 184	0
*
* TON/ TOFF/ BBM
S11 182 184 140 7 VON
S12 143 138 143 7 VEN
Ech14 143 7 VALUE = { IF(V(6)<2.4, 5 , 0.8 ) }
eV1 140 7 138 7 1
C16 138 7 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S13 8 182 185 7 VON
S15 139 185 139 7 VON
Ech16 139 7 VALUE = { IF((V(0)>=-0.5 & (V(4)<=5 & V(4)>=0.5)), 5 , 0.01 ) }

.ENDS ADG702
